US08110585B2
methyl 5-fluoro-2H-indazole-4-carboxylate
To a solution of a crudely purified product (18.5 g, 65.1 mmol) of methyl 3-[(tert-butylthio)diazenyl]-6-fluoro-2-methylbenzoate in dimethyl sulfoxide (200 mL) was added a solution of potassium tert-butoxide (10.6 g, 98.0 mmol) in dimethyl sulfoxide (125 mL) at room temperature, and the mixture was stirred for 12 hr. The reaction solution was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/2) to give the title compound (3.20 g, yield 25%).

reactant | methyl 3-[(tert-butylthio)diazenyl]-6-fluoro-2-methylbenzoate | 65.1 mmol, 18.5 g | C(C)(C)(C)SN=NC=1C(=C(C(=O)OC)C(=CC1)F)C | C13H17FN2O2S
reactant | potassium tert-butoxide | 98.0 mmol, 10.6 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 125 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 5-fluoro-2H-indazole-4-carboxylate | 3.20 g, yield 25% | FC1=C(C2=CNN=C2C=C1)C(=O)OC | C9H7FN2O2
